* Z:\mnt\spice-netlists\LTC3649_DC2113.asc
XU1 0 MP_01 IN MP_02 IN 0 0 N004 0 N007 N002 N006 OUT N010 N009 OUT N001 N003 N005 LTC3649
R1 N010 0 100K
C1 N010 0 1n
R2 N006 0 200K
V1 IN 0 48
C2 0 N001 2.2µ
R3 N007 0 10K
C3 N007 0 10n
L1 N005 OUT 5.6µ
C4 N003 N005 .1µ
C5 OUT 0 22µ x2
Rload OUT 0 1.25
C6 OUT 0 150µ
C7 IN 0 10µ
C8 IN 0 10µ x2
C9 N008 0 4.7n
R4 N009 N008 1K
C10 N009 0 10p
R5 N001 N004 100K
R6 N001 N002 10K
.tran 1m startup
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
* LTC3649 - 60V, 4A Synchronous Step-Down Regulator with Rail-to-Rail Programmable Output\nHigh Voltage Monolothic Synchronous Buck Regulator\nInput: 4V to 60V     Output: 5V @ 4A, Fsw = 500kHz
.lib LTC3649.sub
.backanno
.end
