* Z:\mnt\spice-netlists\LTC3769_DC2173.asc
C1 N002 0 4.7µ
V1 IN 0 PWL(0 12 2m 12 2.1m 6 2.5m 6 3m 12)
C3 OUT 0 4.7µ x6
R4 N004 0 12.1K
R5 OUT N004 475K
R6 IN N007 6m
L1 N007 N006 10µ
M§Q3 OUT N003 N006 N006 BSC028N06LS3
M§Q4 N006 N008 0 0 BSC028N06LS3
C6 N005 N006 .1µ
D2 N002 N005 MBRS1100
Rload OUT 0 48
XU1 MP_01 N009 MP_02 MP_03 NC_04 0 N001 NC_05 N007 N010 MP_06 MP_07 MP_08 MP_09 N006 N003 N005 N008 N002 NC_10 MP_11 IN MP_12 MP_13 MP_14 MP_15 NC_16 NC_17 N011 N013 N004 LTC3769
C2 N011 0 .01µ
C4 IN 0 4.7µ x2
C7 OUT 0 33µ x2
R1 N009 0 30.1K
R2 N013 N012 27.4K
C5 N012 0 15n
C8 N013 0 100p
R3 IN N001 150K
R7 N001 0 38.3K
R8 IN N010 10
C9 N010 N007 1n
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3.5m
* Notes:\n  Smaller values are used for SS capacitors to reduce simulation time. See datasheet for typical values.\n  For the full components part numbers and layout details refer to demo circuit DC2173.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
* LTC3769 - 60V Low IQ Synchronous Boost Controller\nHigh Voltage 60V Synchronous Boost Controller\nInput: 6V to 55V     Output: 48V @ 1A
.lib LTC3769.sub
.backanno
.end
