* Z:\mnt\spice-netlists\LTC3788_DC1409.asc
XU1 N018 0 NC_01 NC_02 N001 0 N002 N005 N019 N017 N021 N024 N027 N004 N012 N007 N009 N015 N001 NC_03 0 OUT2 N014 N008 N006 N011 N003 N001 N026 N023 N020 N016 LTC3788
C8 N001 0 4.7µ
R7 N003 N001 100K
R26 N001 N004 100K
V1 IN 0 7
Rsns1 IN N010 4m
L1 N010 N011 3.6µ
M§Q1 OUT1 N006 N011 N011 BSC027N04LS
M§Q4 N011 N014 0 0 BSC027N04LS
C4 N008 N011 .1µ
D1 N001 N008 1N4148
Cout5 OUT1 0 150µ
R4 N020 0 12.1K
R5 OUT1 N020 232K
C15 N026 0 .005µ
Rsns2 IN N013 3m
L2 N013 N012 1.25µ
M§Q2 OUT2 N007 N012 N012 BSC027N04LS
M§Q3 N012 N015 0 0 BSC027N04LS
C9 N009 N012 .1µ
Cout10 OUT2 0 150µ
R15 N021 0 12.1K
R14 OUT2 N021 110K
C16 N027 0 .005µ
D2 N001 N009 MMSD4148
Rload1 OUT1 0 8
Rload2 OUT2 0 1.5
C5 N016 N018 1n
C10 N017 N019 1n
R10 N018 N010 10
R13 N013 N019 10
R11 N016 IN 10
R12 IN N017 10
C3 N022 0 15n
R9 N023 N022 16.9K
C2 N023 0 100p
R1 N002 0 12.1K
R2 IN N002 38.3K
R3 N005 0 12.1K
R6 IN N005 38.3K
Cout1-4 OUT1 0 88µ
Cout6-9 OUT2 0 88µ
C1 N025 0 15n
R8 N025 N024 9.09K
C6 N024 0 100p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.25m startup
* Notes:\n \n  C15 and C16 should be 0.1µF, not 0.005µF.  The values are reduced here to speed up the time to simulate a soft start cycle.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3788 - 2-Phase, Dual Output Synchronous Boost Controller\nHigh Current 2-Output Synchronous Step-Up Supply\nInput: 5V-24V      Outputs: 24V @ 3A-5A and 12V @ 8A-10A
* 24V output
* 12V output
.lib LTC3788.sub
.backanno
.end
