* Z:\mnt\spice-netlists\LTC4415_DC1819.asc
XU1 IN1 N001 N002 N004 N003 IN2 OUT NC_01 NC_02 NC_03 NC_04 OUT 0 LTC4415
R1 N001 IN1 100K
R2 N003 N001 2K
R3 0 N003 21.5K
R4 0 N002 124
R5 0 N004 124
V1 IN1 0 PWL(0 5 300u 5 500u 0 700u 0 800u 5)
C1 IN1 0 10µ
C2 IN2 0 10µ
C3 OUT 0 10µ
C4 OUT 0 10µ
V2 IN2 0 3.7
R6 OUT 0 1.2
* LTC4415 - Dual 4A Ideal Diodes with Adjustable Current Limit\nInput Supply Prioritizer\nInput: 1.7V-5.5V     Output: Up to 4A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.tran 1m
.lib LTC4415.sub
.backanno
.end
