* Z:\mnt\spice-netlists\LTC7149_DC2354.asc
R1 N011 OUT 100K
C1 N011 OUT 1n
R2 N008 OUT 200K
V1 IN 0 12
C2 N002 OUT 2.2µ
L1 N007 0 5.6µ
C3 N004 N007 .1µ
C4 OUT 0 22µ x2
XU1 OUT MP_01 IN MP_02 IN N010 0 N006 N009 OUT N002 N008 N003 N011 N012 N001 N002 N004 N007 LTC7149
C5 IN 0 10µ
C6 IN 0 10µ
C7 OUT 0 150µ
R3 N012 P001 1K
C8 P001 OUT 4.7n
C9 N012 OUT 100p
V2 N005 0 5
R4 N005 N006 100K
C10 IN OUT 2.2µ
C11 IN OUT 1µ
R5 N010 0 20
R6 0 N003 100
R7 0 N001 10
C12 OUT N001 1µ
R8 0 N009 1Meg
R9 N009 OUT 137K
Rload OUT 0 2
.tran 1.5m startup uic
* LTC7149 - 60V, 4A Synchronous Step-Down Regulator for Inverting Outputs\nInverting Buck Regulator\nInput: 3.4V to 55V     Output: -5V @ 2.5A
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
.lib LTC7149.sub
.backanno
.end
