* Z:\mnt\spice-netlists\LTC3833_DC1640A-B.asc
M§Q2 N007 N010 0 0 RJK0301DPB
D1 N002 N005 CMDSH2-3
M§Q1 IN N006 N007 N007 RJK0305DPB
L1 N007 N008 .44µ
V1 IN 0 12
C5 N005 N007 .22µ
XU1 0 N016 N014 N012 N002 N009 N003 NC_01 N002 N001 N002 0 N010 N007 N006 N005 N004 N013 N015 OUT 0 LTC3833
R1 N009 0 137K
C1 N013 N015 1n
R5 N008 N013 10
R6 OUT N015 10
Cout1 OUT 0 330µ
Cout2 OUT 0 100µ
R7 N016 0 10.0K
R8 OUT N016 15.0K
C4 N014 0 1n
C10 N012 0 100p
R2 N012 N011 16.5K
C2 N011 0 470p
C3 IN 0 22µ
Rsense N008 OUT 2m
C6 N001 0 0.1µ
R9 N001 IN 2.2
Rload OUT 0 75m
C8 N002 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3833 - Fast Accurate Step-Down DC/DC Controller with Differential Output Sensing\nInput: 4.5V - 14V   Output: 1.5V @ 20A, Fswitch = 300kHz
* 1.5V @ 20A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3833.sub
.backanno
.end
