* Z:\mnt\spice-netlists\LTC3838_DC1626A-B.asc
XU1 N023 N021 N004 NC_01 N004 NC_02 0 N026 N004 N020 N022 N024 0 N016 N018 N004 NC_03 N003 N008 N006 N011 N014 N001 N002 0 N004 NC_04 N001 N015 N012 N007 N009 N005 NC_05 N004 N019 N017 N025 LTC3838
R1 N026 0 137K
V1 IN 0 12
C1 0 N001 4.7µ
R2 N001 N004 2.2
M§Q1 IN N006 N011 N011 RJK0305DPB
M§Q2 N011 N014 0 0 RJK0301DPB
D1 N001 N008 MBRS140
C2 N008 N011 .1µ
L1 N011 N010 0.68µ
C3 N016 N018 1n
C4 N020 0 330p
C5 N022 0 1n
R3 OUT1 N024 10K
R4 N024 0 10K
M§Q3 IN N007 N012 N012 RJK0305DPB
M§Q4 N012 N015 0 0 RJK0301DPB
D2 N001 N009 MBRS140
C6 N009 N012 .1µ
L2 N012 N013 0.68µ
C7 N017 N019 1n
C8 N021 0 330p
R5 OUT2 N025 15K
R6 N025 0 10K
C9 IN 0 100µ x2
C10 IN 0 10µ x3
C11 N002 0 0.1µ
R7 N002 IN 2.2
C12 OUT1 0 330µ x2
C13 OUT1 0 100µ x2
C14 OUT2 0 100µ x2
C15 OUT2 0 330µ x2
R8 N010 OUT1 2.5m
R9 N016 N010 10
R10 N018 OUT1 10
R11 OUT2 N013 2.5m
R12 OUT2 N019 10
R13 N013 N017 10
C16 0 N023 1n
R14 N001 N005 100K
R15 N001 N003 100K
Rload1 OUT1 0 .08
Rload2 OUT2 0 .1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
* LTC3838 - Dual, Fast, Accurate Step-Down DC/DC Controller with Differential Output Sensing\nWide Input Range, High Efficiency Step-Down DC/DC Converter with Rsense Current Sensing\nInput: 4.5V to 26V     Outputs: 1.2V @ 15A & 1.5V @ 15A, Fsw = 300kHz
* Notes:\n  Small value is used for the TRACK/SS capacitors to reduce simulation time. Typical values will vary from 10nF to 100nF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3838.sub
.backanno
.end
