* Z:\mnt\spice-netlists\LTC3869_DC1807A-B.asc
V1 IN 0 12
C1 IN 0 10µ x2
M§Q1 IN N002 N006 N006 RJK0305DPB
M§Q2 N006 N008 0 0 RJK0301DPB
D1 N001 N004 CMDSH2-3
C2 N004 N006 .1µ
L1 N006 OUT1 0.56µ
C3 OUT1 0 100µ
R1 N006 N010 1.58K
C4 N010 OUT1 220n
R2 OUT1 N012 30.1K
R3 N012 0 20K
C5 N014 0 1.5n
R4 N015 N014 5.9K
C6 N015 0 100p
C7 N018 0 1n
R5 N020 0 75K
C8 N019 0 1n
M§Q3 IN N003 N007 N007 RJK0305DPB
M§Q4 N007 N009 0 0 RJK0301DPB
D2 N001 N005 CMDSH2-3
C9 N005 N007 .1µ
L2 OUT2 N007 0.56µ
C10 OUT2 0 100µ
R6 N011 N007 1.58K
C11 N011 OUT2 220n
R7 OUT2 N013 20K
R8 N013 0 20K
C12 N017 0 1.5n
R9 N016 N017 5.9K
C13 N016 0 220p
XU1 N018 N010 OUT1 N012 N020 0 NC_01 N015 0 NC_02 N016 N013 OUT2 N011 N019 N003 N007 N005 N009 0 N001 NC_03 N008 IN N004 N006 N002 NC_04 NC_05 LTC3869
C14 OUT1 0 330µ x2
C15 OUT2 0 330µ x2
Rload1 OUT1 0 .1
Rload2 OUT2 0 .08
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* 1.5V, MAX 15A
* 1.2V, MAX 15A
* LTC3869 - Dual, 2-Phase Synchronous Step-Down DC/DC Controller\nHigh Efficiency Dual 1.5V/1.2V Buck Converter using DCR Current Sensing\nInput: 4.5V-14V     Outputs: 1.5V @ 15A and 1.2V @ 15A, Fsw = 300kHz
* Notes:\n  A 100 Ohm &  1nF Rsense filter may be required instead to counter effects of Rsense ESL. Refer to the datasheet for details. \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.tran .7m startup
.lib LTC3869.sub
.backanno
.end
